US04968698
2A. N-[3-Cyclohexylpropenoyl]-2[3-benzyloxyphenyl]ethylamine
To a solution of 2-[3-benzyloxyphenyl]ethylamine (2.3 g) (prepared in a manner analogous to that described in Example 1E) in acetonitrile (25 cm3) was added powdered potassium carbonate (2.1 g) followed by 3-cyclohexylpropenoyl chloride (1.72 g) in acetonitrile (10 cm3) which was added over ten minutes. The resulting mixture was stirred for one hour and was then treated with water (40 cm3) and SVM (3 cm3) thereby causing the precipitation of an oil which solidified to give a pale tan solid after several minutes. This solid was filtered off, washed with 5% SVM in water and sucked dry. Yield=3.08 g m.p. 98°-100° C.

reactant | 2-[3-benzyloxyphenyl]ethylamine | 2.3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN | C15H17NO
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyclohexylpropenoyl chloride | 1.72 g | C1(CCCCC1)C=CC(=O)Cl | C9H13ClO
reactant | water | 40 cm3 | O | H2O
solvent | acetonitrile | 25 cm3 | C(C)#N | C2H3N
solvent | acetonitrile | 10 cm3 | C(C)#N | C2H3N
product | N-[3-Cyclohexylpropenoyl]-2[3-benzyloxyphenyl]ethylamine | C1(CCCCC1)C=CC(=O)NCCC1=CC(=CC=C1)OCC1=CC=CC=C1 | C24H29NO2
